US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0499 g, 0.165 mmol) and 2-bromoethyl phenyl ether (0.0760 g, 0.378 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0548 g, 66.0%). EI-MS m/z 423(M+) Rt (2.20 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.165 mmol, 0.0499 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 2-bromoethyl phenyl ether | 0.378 mmol, 0.0760 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
product | 4-[cyano(diphenyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0548 g, 66.0% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H31N2O.BrH/c30-24-29(25-10-4-1-5-11-25,26-12-6-2-7-13-26)28-16-19-31(20-17-28,21-18-28)22-23-32-27-14-8-3-9-15-27;/h1-15H,16-23H2;1H/q+1;/p-1
